US07786115B2
Methyl 3-[7-[3-(dimethylamino)prop-1-yn-1-yl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoate (192 mg) and 10% Pd/C (20 mg) were stirred in a mixture of ethanol (2 ml)/methanol (4 ml)/ethyl acetate (1 ml) under an atmosphere of hydrogen at room temperature for 2 hours. The catalyst was removed by filtration through a microfibre filter and the filtrate was concentrated to yield an oil. The oil was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to yield methyl 3-[7-[3-(dimethylamino)propyl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoate as a yellow oil that turned to a pale yellow solid on standing (155 mg); NMR Spectrum: (DMSOd6) 1.76 (m, 2H), 2.14 (s, 6H), 2.15 (s, 3H), 2.23 (t, 2H), 2.76 (t, 2H), 3.87 (s, 3H), 6.72 (d, 1H), 7.30 (d, 1H), 7.59 (d, 1H), 7.67 (m, 2H), 7.83 (s, 1H), 7.98 (d, 1H), 8.07 (s, 1H); Mass Spectrum: M+H+ 379.

reactant | Methyl 3-[7-[3-(dimethylamino)prop-1-yn-1-yl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoate | 192 mg | CN(CC#CC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)OC)C=CC1C)C | C23H22N2O3
reactant | methanol | 4 ml | CO | CH4O
reactant | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | methyl 3-[7-[3-(dimethylamino)propyl]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoate | CN(CCCC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)OC)C=CC1C)C | C23H26N2O3
